US08003649B2
Methyl 2-bromoacetate (0.121 mL, 1.28 mmol) was added to 4-(4-hydroxyphenyl)-1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol (323 mg, 0.85 mmol) and potassium carbonate (235 mg, 1.70 mmol) in DMF (5 mL). The resulting suspension was stirred at ambient temperature for 16 hours. The reaction mixture was evaporated to dryness, then water (50 mL) was added and the mixture was stirred for 20 minutes. The resulting precipitate was collected by filtration, washed with water then ether and dried to afford methyl 2-[4-[4-hydroxy-1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]acetate (384 mg, 100%) as a beige solid.

reactant | Methyl 2-bromoacetate | 1.28 mmol, 0.121 mL | BrCC(=O)OC | C3H5BrO2
reactant | 4-(4-hydroxyphenyl)-1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol | 0.85 mmol, 323 mg | OC1=CC=C(C=C1)C1(CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)O | C17H16F3N5O2
reactant | potassium carbonate | 1.70 mmol, 235 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | methyl 2-[4-[4-hydroxy-1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]acetate | 384 mg, 100% | OC1(CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)C2=CC=C(OCC(=O)OC)C=C2 | C20H20F3N5O4
